### PR TITLE
[Merged by Bors] - feat: tactic `compute_degree`

### PR DESCRIPTION
**Pull request by adomani**
This PR ports the whole `compute_degree` tactic from mathlib3.

The tactic makes progress on goals of the form
*  `natDegree f ≤ d`,
*  `degree f ≤ d`,
*  `natDegree f = d`,
*  `degree f = d`,
*  `coeff f n = r`.

The variant `compute_degree!` applies `norm_num` and `assumption` to all left-over goals.

For instance, here is a valid computation of the degree of the 105-th cyclotomic polynomial:
```lean
example : natDegree
    (1 + X + X ^ 2 - X ^ 5 - X ^ 6 - 2 * X ^ 7 - X ^ 8 - X ^ 9 + X ^ 12 + X ^ 13 + X ^ 14 +
        X ^ 15 + X ^ 16 + X ^ 17 - X ^ 20 - X ^ 22 - X ^ 24 - X ^ 26 - X ^ 28 + X ^ 31 + X ^ 32 +
        X ^ 33 + X ^ 34 + X ^ 35 + X ^ 36 - X ^ 39 - X ^ 40 - 2 * X ^ 41 - X ^ 42 - X ^ 43 +
        X ^ 46 + X ^ 47 + X ^ 48 : ℤ[X]) = 48 := by
  compute_degree!
```
(Lean takes approximately 3s on my computer to prove the computation above.)

Affected files:
```
Mathlib/Lean/Expr/Basic.lean
Mathlib/Tactic/ComputeDegree.lean
test/ComputeDegree.lean
```

---

- [x] depends on: #6220 for some basic lemmas

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Tactic/ComputeDegree.lean [hunk 1]
```diff
@@ -4,37 +4,461 @@ Released under Apache 2.0 license as described in the file LICENSE.
...
+  | some 0 => `zero
+  | some 1 => `one
+  | some _ => `many
+  | none => match pol.getAppFnArgs with
+    | (``FunLike.coe, #[_, _, _, _, polFun, _]) => match polFun.getAppFnArgs with
+      | (na@``Polynomial.monomial, _) => na
+      | (na@``Polynomial.C, _) => na
+      | _ => `error
+    | (na, _) => na
+(ndeg_or_deg_or_coeff, eq_or_le, head, and?.map isMVar)
```
[the remark this answers is not in the document]
Comment (kmill) [reply Mathlib/Tactic/ComputeDegree.lean:221]: Here's how I'd suggest organizing this function:
```lean
/-- `twoHeadsArgs e` takes an `Expr`ession `e` as input and recurses into `e` to make sure
the `e` looks like `lhs ≤ rhs` or `lhs = rhs` and that `lhs` is one of
`natDegree f, degree f, coeff f d`.
It returns
* the function being applied on the LHS (`natDegree`, `degree`, or `coeff`),
  or else `.anonymous` if it's none of these.
* the name of the relation (`Eq` or `LE.le`), or else `.anonymous` if it's none of these.
* either
  * `.inl zero`, `.inl one`, or `.inl many` if the polynomial in a numeral
  * or `.inr` of the the head symbol of `f`
  * or `.inl .anonymous` if inapplicable
* if it exists, whether the `rhs` is a metavariable
* if the LHS is `coeff f d`, whether `d` is a metavariable

This is all the data needed to figure out whether `compute_degree` can make progress on `e`
and, if so, which lemma it should apply.

Sample outputs:
* `natDegree (f + g) ≤ d => (natDegree, LE.le, HAdd.hAdd, d.isMVar, none)` (similarly for `=`);
* `degree (f * g) = d => (degree, Eq, HMul.hMul, d.isMVar, none)` (similarly for `≤`);
* `coeff (1 : ℕ[X]) c = x => (coeff, Eq, one, x.isMVar, c.isMVar)` (no `≤` option!).
-/
def twoHeadsArgs (e : Expr) : Name × Name × Sum Name Name × List Bool := Id.run do
  let (eq_or_le, lhs, rhs) ← match e.getAppFnArgs with
    | (na@``Eq, #[_, lhs, rhs])       => pure (na, lhs, rhs)
    | (na@``LE.le, #[_, _, lhs, rhs]) => pure (na, lhs, rhs)
    | _ => return (.anonymous, .anonymous, .inl .anonymous, [])
  let (ndeg_or_deg_or_coeff, pol, and?) ← match lhs.getAppFnArgs with
    | (na@``Polynomial.natDegree, #[_, _, pol]) => (na, pol, [rhs.isMVar])
    | (na@``Polynomial.degree, #[_, _, pol])    => (na, pol, [rhs.isMVar])
    | (na@``Polynomial.coeff, #[_, _, pol, c])  => (na, pol, [rhs.isMVar, c.isMVar])
    | _ => return (.anonymous, eq_or_le, .inl .anonymous, [])
  let head := match pol.numeral? with
    -- can I avoid the tri-splitting `n = 0`, `n = 1`, and generic `n`?
    | some 0 => .inl `zero
    | some 1 => .inl `one
    | some _ => .inl `many
    | none => match pol.getAppFnArgs with
      | (``FunLike.coe, #[_, _, _, _, polFun, _]) =>
        let na := polFun.getAppFn.constName
        if na ∈ [``Polynomial.monomial, ``Polynomial.C] then
          .inr na
        else
          .inl .anonymous
      | (na, _) => .inr na
  (ndeg_or_deg_or_coeff, eq_or_le, head, and?)
```

File: Mathlib/Tactic/ComputeDegree.lean [hunk 2]
```diff
@@ -4,37 +4,461 @@ Released under Apache 2.0 license as described in the file LICENSE.
...
+    | false, true  => ``Eq.trans
+    | true, false  => ``coeff_congr_lhs
+    | true, true   => ``id
+  | _ => ``id
+if debug then
+  let natr := if nam.getString == `trans then nam else nam.getString
+  dbg_trace f!"congr lemma: '{natr}'"
+  nam
+else
+  nam
```
Comment (kmill) [inline Mathlib/Tactic/ComputeDegree.lean:261]: Indentation:
```suggestion
def getCongrLemma (twoH : Name × Name × List Bool) (debug : Bool := false) : Name :=
  let nam := match twoH with
    | (_,           ``LE.le, [rhs]) => if rhs then ``id else ``le_trans
    | (``natDegree, ``Eq, [rhs])    => if rhs then ``id else ``natDegree_eq_of_le_of_coeff_ne_zero'
    | (``degree,    ``Eq, [rhs])    => if rhs then ``id else ``degree_eq_of_le_of_coeff_ne_zero'
    | (``coeff,     ``Eq, [rhs, c]) =>
      match rhs, c with
      | false, false => ``coeff_congr
      | false, true  => ``Eq.trans
      | true, false  => ``coeff_congr_lhs
      | true, true   => ``id
    | _ => ``id
  if debug then
    let natr := if nam.getString == `trans then nam else nam.getString
    dbg_trace f!"congr lemma: '{natr}'"
    nam
  else
    nam
```

File: Mathlib/Tactic/ComputeDegree.lean [hunk 3]
```diff
@@ -4,37 +4,461 @@ Released under Apache 2.0 license as described in the file LICENSE.
...
+        (``natDegree_int_cast_le, ``degree_int_cast_le, ``coeff_int_cast_ite)
+      | ``IntCast.intCast =>
+        (``natDegree_int_cast_le, ``degree_int_cast_le, ``coeff_int_cast_ite)
+      | ``Polynomial.monomial =>
+        (``natDegree_monomial_le, ``degree_monomial_le, ``coeff_monomial)
+      | ``Polynomial.C =>
+        (``natDegree_C_le, ``degree_C_le, ``coeff_C)
+      | `error => (.anonymous, .anonymous, .anonymous)
+      | _ => (``le_rfl, ``le_rfl, ``rfl)
+    if debug then dbg_trace f!"{(π nas).getString}\n{msg}"; π nas else π nas
```
Comment (kmill) [inline Mathlib/Tactic/ComputeDegree.lean:316]: To make it accept the changes made to `twoHeadArgs`, and some changes to improve robustness.
```suggestion
def dispatchLemma
    (twoH : Name × Name × Sum Name Name × List Bool) (debug : Bool := false) : Name :=
  match twoH with
    | (.anonymous, _, _) => ``id -- `twoH` gave default value, so we do nothing
    | (_, .anonymous, _) => ``id -- `twoH` gave default value, so we do nothing
    | (na1, na2, head, bools) =>
      let msg := f!"\ndispatchLemma:\n  {head}"
      -- if there is some non-metavariable on the way, we "congr" it away
      if false ∈ bools then getCongrLemma (na1, na2, bools) debug
      else
      -- otherwise, we select either the first, second or third element of the triple in `nas` below
      let π (natDegLE : Name) (degLE : Name) (coeff : Name) : Name := Id.run do
        let lem := match na1, na2 with
          | ``natDegree, ``LE.le => natDegLE
          | ``degree, ``LE.le => degLE
          | ``coeff, ``Eq => coeff
          | _, ``LE.le => ``le_rfl
          | _, _ => ``rfl
        if debug then
          dbg_trace f!"{lem.getString}\n{msg}"
        lem
      match head with
        | .inl `zero => π ``natDegree_zero_le ``degree_zero_le ``coeff_zero
        | .inl `one => π ``natDegree_one_le ``degree_one_le ``coeff_one
        | .inl `many => π ``natDegree_nat_cast_le ``degree_nat_cast_le ``coeff_nat_cast_ite
        | .inl .anonymous => π ``le_rfl ``le_rfl ``rfl
        | .inr ``HAdd.hAdd =>
          π ``natDegree_add_le_of_le ``degree_add_le_of_le ``coeff_add_of_eq
        | .inr ``HSub.hSub =>
          π ``natDegree_sub_le_of_le ``degree_sub_le_of_le ``coeff_sub_of_eq
        | .inr ``HMul.hMul =>
          π ``natDegree_mul_le_of_le ``degree_mul_le_of_le ``coeff_mul_add_of_le_natDegree_of_eq_ite
        | .inr ``HPow.hPow =>
          π ``natDegree_pow_le_of_le ``degree_pow_le_of_le ``coeff_pow_of_natDegree_le_of_eq_ite'
        | .inr ``Neg.neg =>
          π ``natDegree_neg_le_of_le ``degree_neg_le_of_le ``coeff_neg
        | .inr ``Polynomial.X =>
          π ``natDegree_X_le ``degree_X_le ``coeff_X
        | .inr ``Nat.cast =>
          π ``natDegree_nat_cast_le ``degree_nat_cast_le ``coeff_nat_cast_ite
        | .inr ``NatCast.natCast =>
          π ``natDegree_nat_cast_le ``degree_nat_cast_le ``coeff_nat_cast_ite
        | .inr ``Int.cast =>
          π ``natDegree_int_cast_le ``degree_int_cast_le ``coeff_int_cast_ite
        | .inr ``IntCast.intCast =>
          π ``natDegree_int_cast_le ``degree_int_cast_le ``coeff_int_cast_ite
        | .inr ``Polynomial.monomial =>
          π ``natDegree_monomial_le ``degree_monomial_le ``coeff_monomial
        | .inr ``Polynomial.C =>
          π ``natDegree_C_le ``degree_C_le ``coeff_C
        | _ => π ``le_rfl ``le_rfl ``rfl
```

File: Mathlib/Tactic/ComputeDegree.lean [hunk 4]
```diff
@@ -4,37 +4,461 @@ Released under Apache 2.0 license as described in the file LICENSE.
...
+and `x` is an expression that does not involve metavariables, then it closes this goal using `rfl`,
+effectively assigning the metavariable to `x`.
+
+If a goal does not contain metavariables, it tries `rfl` on it.
+
+It returns the list of `MVarId`s, beginning with the ones that initially involved (`Expr`)
+metavariables followed by the rest.
+-/
+def try_rfl (mvs : List MVarId) : MetaM (List MVarId) := do
+  let (yesMV, noMV) := ← mvs.partitionM fun mv => return hasExprMVar (← mv.getDecl).type
```
Comment (kmill) [inline Mathlib/Tactic/ComputeDegree.lean:331]: Need to make sure to instantiate metavariables:
```suggestion
  let (yesMV, noMV) := ← mvs.partitionM fun mv =>
                          return hasExprMVar (← instantiateMVars (← mv.getDecl).type)
```

File: Mathlib/Tactic/ComputeDegree.lean [hunk 5]
```diff
@@ -4,37 +4,461 @@ Released under Apache 2.0 license as described in the file LICENSE.
...
+lemma and returns two lists: the left-over goals of all the applications, followed by the
+concatenation of the previous `static` list, followed by the newly discovered goals outside of the
+scope of `compute_degree`. -/
+def splitApply (mvs static : List MVarId) : MetaM ((List MVarId) × (List MVarId)) := do
+let (can_progress, curr_static) := ← mvs.partitionM fun mv => do
+  return dispatchLemma (twoHeadsArgs (← mv.getType'')) != ``id
+let progress := ← can_progress.mapM fun mv => do
+  let lem := dispatchLemma <| twoHeadsArgs (← mv.getType'')
+  mv.applyConst <| lem
+return (progress.join, static ++ curr_static)
```
Comment (kmill) [inline Mathlib/Tactic/ComputeDegree.lean:361]: Indentation:
```suggestion
def splitApply (mvs static : List MVarId) : MetaM ((List MVarId) × (List MVarId)) := do
  let (can_progress, curr_static) := ← mvs.partitionM fun mv => do
    return dispatchLemma (twoHeadsArgs (← mv.getType'')) != ``id
  let progress := ← can_progress.mapM fun mv => do
    let lem := dispatchLemma <| twoHeadsArgs (← mv.getType'')
    mv.applyConst <| lem
  return (progress.join, static ++ curr_static)
```

File: Mathlib/Tactic/ComputeDegree.lean [hunk 6]
```diff
@@ -4,37 +4,461 @@ Released under Apache 2.0 license as described in the file LICENSE.
...
+
+`compute_degree` applies `norm_num` to the left-hand side of all side goals, trying to clos them.
+
+The variant `compute_degree!` first applies `compute_degree`.
+Then it uses `norm_num` on all the whole remaining goals and tries `assumption`.
+-/
+syntax (name := computeDegree) "compute_degree" "!"? "-debug"? : tactic
+
+@[inherit_doc computeDegree]
+macro "compute_degree!" "-debug"? : tactic => `(tactic| compute_degree ! -debug)
```
Comment (kmill) [inline Mathlib/Tactic/ComputeDegree.lean:416]: Let's not use a debug flag. Instead let's us the standard interface of a trace option.
```suggestion
syntax (name := computeDegree) "compute_degree" "!"? : tactic

initialize registerTraceClass `Tactic.compute_degree
```

File: Mathlib/Tactic/ComputeDegree.lean [hunk 7]
```diff
@@ -4,37 +4,461 @@ Released under Apache 2.0 license as described in the file LICENSE.
...
+        let false_goals := ← final_gls.filterM fun mv_before => do
+          let mv_after? := (← getMCtx).userNames.find? (← mv_before.getTag)
+          match mv_after? with
+            | some mv_after => return ((← mv_after.getType'') == (Expr.const ``False []))
+            | none => return false
+        -- we compute the error message
+        let errors := miscomputedDegree? deg.get! (← false_goals.mapM (MVarId.getType'' ·))
+        if errors.length != 0 then
+          throwError (Lean.MessageData.joinSep
+            (m!"The given degree is '{deg}'.  However,\n" :: errors) "\n")
```
Comment (kmill) [inline Mathlib/Tactic/ComputeDegree.lean:460]: 1. This removes the debug flag and switches to using `trace[Tactic.compute_degree]`
2. This switches to `let goal ← getMainGoal` notation in a few places instead of `let goal := ← getMainGoal`
3. The two error cases in the `match` seemed backwards. I also removed mentioning the head symbol since a user can see it from the goal state easily enough (and it's wrong to mention `.anonymous` if there's no head symbol). Note the `{""}` trick for continuing an `m!` string.
4. The `while` can use `!=`
5. There was a missing `withMainContext` around the whole `do` expression, which is needed for `getType''`
6. The tag-based goal matching when assembling the miscomputed degree error message wasn't robust, so I changed it to something that is guaranteed to work.
```suggestion
elab_rules : tactic | `(tactic| compute_degree $[!%$bang]?) => focus <| withMainContext do
  let goal ← getMainGoal
  let gt ← goal.getType''
  let deg? := match gt.eq? with
    | some (_, _, rhs) => some rhs
    | _ => none
  let twoH := twoHeadsArgs gt
  match twoH with
    | (_, .anonymous, _) => throwError
        (m!"'compute_degree' inapplicable. The goal{indentD gt}\nis expected to be '≤' or '='.")
    | (.anonymous, _, _) => throwError
        (m!"'compute_degree' inapplicable. The LHS must be an application of {
          ""}'natDegree', 'degree', or 'coeff'.")
    | _ =>
      let lem := dispatchLemma twoH
      trace[Tactic.compute_degree] f!"'compute_degree' first applies lemma '{lem.getString}'"
      let mut (gls, static) := (← goal.applyConst lem, [])
      while gls != [] do (gls, static) ← splitApply gls static
      let rfled ← try_rfl static
      setGoals rfled
      --  simplify the left-hand sides, since this is where the degree computations leave
      --  expressions such as `max (0 * 1) (max (1 + 0 + 3 * 4) (7 * 0))`
      evalTactic
        (← `(tactic| try any_goals conv_lhs => (simp only [Nat.cast_withBot]; norm_num)))
      if bang.isSome then
        let mut false_goals : Array MVarId := #[]
        let mut new_goals : Array MVarId := #[]
        for g in ← getGoals do
          let gs' ← run g do evalTactic (← `(tactic| try (any_goals norm_num <;> try assumption)))
          new_goals := new_goals ++ gs'.toArray
          if ← gs'.anyM fun g' => g'.withContext do return (← g'.getType'').isConstOf ``False then
            false_goals := false_goals.push g
        setGoals new_goals.toList
        if let some deg := deg? then
          let errors := miscomputedDegree? deg (← false_goals.mapM (MVarId.getType'' ·)).toList
          unless errors.isEmpty do
            throwError Lean.MessageData.joinSep
              (m!"The given degree is '{deg}'.  However,\n" :: errors) "\n"
```

File: test/ComputeDegree.lean [hunk 8]
```diff
@@ -0,0 +1,230 @@
...
+example [Ring R] (h : (0 : R) = 6) : coeff (1 : R[X]) 1 = 6 := by compute_degree!
+
+/-! Test error messages -/
+
+/--
+error: The given degree is '0'.  However,
+
+* the coefficient of degree 0 may be zero
+* there may be a term of naïve degree 2
+* there is at least one term of naïve degree 2
```
Comment (kmill) [inline test/ComputeDegree.lean:74]: Somehow this gets reordered with the changes
```suggestion
* the coefficient of degree 0 may be zero
* there is at least one term of naïve degree 2
* there may be a term of naïve degree 2
```

File: test/ComputeDegree.lean [hunk 9]
```diff
@@ -0,0 +1,230 @@
...
+-/
+#guard_msgs in
+example : natDegree (X + X ^ 2 : ℕ[X]) = 0 := by compute_degree!
+
+/--
+error: 'compute_degree' inapplicable.  The goal
+
+   natDegree X ≠ 0
+
+is expected to be '≤' or '=', instead of 'Ne'.
```
Comment (kmill) [inline test/ComputeDegree.lean:84]: Generally tactics don't insert all these extra newlines, which is why I removed them.
```suggestion
error: 'compute_degree' inapplicable. The goal
  natDegree X ≠ 0
is expected to be '≤' or '='.
```

File: test/ComputeDegree.lean [hunk 10]
```diff
@@ -0,0 +1,230 @@
...
+example : natDegree (X : ℕ[X]) ≠ 0 := by compute_degree!
+
+/--
+error: 'compute_degree' inapplicable.  The LHS of
+
+   0 ≤ 0
+
+begins with 'OfNat.ofNat'.  There is support only for
+
+   'natDegree'   'degree'   or   'coeff'
```
Comment (kmill) [inline test/ComputeDegree.lean:96]:
```suggestion
error: 'compute_degree' inapplicable. The LHS must be an application of 'natDegree', 'degree', or 'coeff'.
```

**Review by kmill — COMMENTED** [review]
Thanks for writing this tactic. There are some things I'd like to see changed before it is merged, and I've tested all these suggestions locally.

**Comment by adomani** [comment]
Kyle, thank you so much for taking the time to review the PR!

I've looked through your suggestions and I find them all great!  I hope to have time later today to sit at a computer and implement them.

File: Mathlib/Tactic/ComputeDegree.lean (hunk 1 above)
[the remark this answers is not in the document]
Comment (adomani) [reply Mathlib/Tactic/ComputeDegree.lean]: Very nice!  I like `Id.run do` and `Sum Name Name``

File: Mathlib/Tactic/ComputeDegree.lean [hunk 11]
```diff
@@ -4,37 +4,461 @@ Released under Apache 2.0 license as described in the file LICENSE.
...
+section Tactic
+
+open Lean Elab Tactic Meta Expr
+
+/-- `Lean.Expr.le? p` take `e : Expr` as input.
+If `e` represents `a ≤ b`, then it returns `some (t, a, b)`, where `t` is the Type of `a`,
+otherwise, it returns `none`. -/
+@[inline] def _root_.Lean.Expr.le? (p : Expr) : Option (Expr × Expr × Expr) := do
+  let (type, _, lhs, rhs) := ← p.app4? ``LE.le
+  return (type, lhs, rhs)
```
[the remark this answers is not in the document]
Comment (adomani) [reply Mathlib/Tactic/ComputeDegree.lean]: This was the only remaining move: done now!

**Comment by kmill** [comment]
I think this is in a good state now, and the user interface seems well-specified enough (with internals solid enough) that I'm happy to merge it. One thing we might want in the future is to have `compute_degree` be changed into a collection of `norm_num` extensions, with `compute_degree` in particular applying to the goals laid out in the docstring. One might even have `compute_degree` be a version of `norm_num` specialized to *just* `degree`/`natDegree`/`coeff` expressions and inequality goals involving them, letting it automatically compute degrees.

Anyway, the perfect is the enemy of the good, so

bors r+
